Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
ampicillin / Penicillins / acetaminophen
 
Attending: ___.
 
Chief Complaint:
syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ year old man with a history of COPD and 
degenerative
disc disease who presents as a transfer from ___ for
evaluation and management of recurrent syncope.

The patient states that he has had 4 syncopal episodes within 
the
past month. All similar in nature. He has a Holter monitor on
which was placed after the previous episode. The most recent
event occurred yesterday morning, ___, and was the least
severe. However, he is concerned about the increased frequency 
of
the episodes.

The patient states that he was brushing his teeth yesterday
morning when he felt dizzy. This was characterized by "room
spinning" and pain in the back of his head that he describes as 
a
"reverberating band" between his ears. His heart was 
"fluttering"
and he soon developed "shaky, double vision." The next thing he
remembers is waking up on the bathroom floor after apparently
falling backwards. Denies bowel/bladder incontinence, tongue
biting but did "feel weak" afterwards. He called his brother who
brought him to ___ before being transferred to
___ for further workup.

In the ED, initial vitals: 98.1 80 117/83 18 96% RA  

His exam was notable for giveway weakness but full strength. No
evidence of ataxia. Gait was moderately unstable, with 
components
of antalgia.

Labs were all unremarkable. 

Imaging notable for: 
 
CTA HEAD
CT head: No acute intracranial process. Ethmoid sinus disease.
CTA head: Patent anterior/posterior circulations, circle of
___, and major tributaries. No evidence of dissection or
aneurysm.
CTA neck: Unremarkable neck vessels.

CT C-SPINE
No fracture or traumatic malalignment.

Neurology was consulted who recommended:
- Road test for gait instability
- Neurology to follow on consult service
- Please have cardiology interrogate ___ monitor
- Counsel pt he cannot drive for 6 months following the last
syncopal episode

Patient was given:  
1L NS
15 mg IV Ketorolac

Vitals prior to transfer: 98.3 73 126/65 18 97% RA  
 
On the floor, patient is pleasant and conversant in NAD.
Hemodynamically stable. 

 
Past Medical History:
1. Borderline COPD.
2. History of bipolar disorder.
3. Recurrent syncope, etiology unknown
 
Social History:
___
Family History:
No FH of cardiac disease. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================
VITALS:  98.6 BP 118/78 HR 74 RR 20 Sa 95% on Ra 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Mild, diffuse expiratory wheeze in all lung fields,
particularly the bases. No rales, rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema
Skin: Warm, dry, no rashes or notable lesions.   
Neuro: CNII-XII intact, decreased grip strength ___, normal
strength in lower extremities, grossly normal sensation, 2+
reflexes bilaterally. FNF testing intact bilaterally. Gait is
antalgic but at his baseline according to patient.

DISCHARGE PHYSICAL EXAM
=========================
VITALS:  97.5 133 / 90 77 20 96 Ra 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, no carotid bruit  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Scattered inspiratory and expiratory wheezes. No rales or
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,  

Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema
Skin: Warm, dry, no rashes or notable lesions.   
Neuro: CNII-XII intact

 
Pertinent Results:
ADMISSION LABS:
===============
___ 03:30AM BLOOD WBC-10.0 RBC-4.80 Hgb-14.7 Hct-44.4 
MCV-93 MCH-30.6 MCHC-33.1 RDW-12.0 RDWSD-41.1 Plt ___
___ 03:30AM BLOOD Neuts-50.7 ___ Monos-9.2 Eos-4.6 
Baso-0.7 Im ___ AbsNeut-5.08 AbsLymp-3.44 AbsMono-0.92* 
AbsEos-0.46 AbsBaso-0.07
___ 03:30AM BLOOD ___ PTT-29.5 ___
___ 03:30AM BLOOD Glucose-110* UreaN-14 Creat-0.8 Na-140 
K-4.0 Cl-103 HCO3-25 AnGap-12
___ 03:30AM BLOOD ALT-27 AST-18 AlkPhos-53 TotBili-1.2
___ 03:30AM BLOOD Albumin-4.2 Calcium-8.8 Phos-2.8 Mg-2.4
___ 03:30AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

IMAGING:
===============
CT SPINE:

Soft tissue attenuation artifact from the shoulder girdles 
slightly limits
evaluation of C6 through T1.  There is no evidence for a 
fracture or
prevertebral edema.  Alignment is normal.  No high-grade spinal 
canal stenosis
is seen above the C5-C6 level.  Left C3-C4 and C4-C5 neural 
foramina are at
least mildly narrowed by uncovertebral osteophytes.
 
Visualized lung apices are clear.  The thyroid is grossly 
unremarkable. 
Palatine tonsils are mildly prominent for age.  There are 
multiple nonenlarged
cervical lymph nodes bilaterally.
 
There is minimal mucosal thickening along the floors of the 
partially
visualized maxillary sinuses.  Concurrent CTA of the head and 
neck is reported
separately.
 
IMPRESSION:
 
 
1. No evidence for a fracture.  Normal alignment.
2. Mildly prominent palatine tonsils.  Please correlate 
clinically whether
there has been upper respiratory infection or inflammation to 
explain this
finding.
 
CT HEAD WITHOUT CONTRAST:
Ventricles, sulci, and cisterns appear normal.  There is no 
large infarct,
intracranial hemorrhage, or mass effect.
 
The orbits are unremarkable. There is partial opacification of 
the bilateral
frontal sinuses, anterior bilateral ethmoid air cells, and mild 
mucosal
thickening within the bilateral maxillary sinuses.  There is 
trace mucosal
thickening within the bilateral posterior ethmoid air cells and 
sphenoid
sinuses.  The middle ear cavities and mastoid air cells are 
clear.
 
CTA HEAD:
There is an inferiorly directed 4 mm saccular aneurysm of the 
anterior
communicating artery at the left A1-2 junction (series 3, image 
275).
Otherwise, vessels of the circle of ___ and their principal 
intracranial
branches appear normal without stenosis or occlusion. .
 
CTA NECK:
The carotid and vertebral arteries and their major branches 
appear normal with
no evidence of stenosis or occlusion. There is no evidence of 
internal carotid
stenosis by NASCET criteria.  There is a 3 vessel aortic arch.
 
OTHER:
Lymph nodes within the bilateral 1B and 2A levels are slightly 
conspicuous in
number, however not enlarged.
 
There is diffuse mild bronchial wall thickening.
 
IMPRESSION:
1. 4 mm inferiorly directed anterior communicating artery 
aneurysm.
2. No evidence of infarction, hemorrhage or mass.
3. Otherwise, normal CTA head.
4. Normal CTA neck, without stenosis by NASCET criteria.
5. Paranasal sinus disease, with a possible acute component.

DISCHARGE LABS:
___ 05:10AM BLOOD WBC-7.4 RBC-4.85 Hgb-14.6 Hct-45.4 MCV-94 
MCH-30.1 MCHC-32.2 RDW-11.8 RDWSD-40.4 Plt ___
___ 05:10AM BLOOD Glucose-85 UreaN-14 Creat-0.8 Na-141 
K-4.1 Cl-103 HCO3-26 AnGap-12
___ 05:10AM BLOOD Calcium-8.9 Phos-4.1 Mg-2.___ year old man with history of COPD presented after syncope 
while brushing his teeth. He has had 4 syncopal episodes in the 
last month, and has been wearing an event monitor. The event 
monitor company was called and reported that the monitor had not 
detected any arrhythmia. The only event he has recorded (due to 
symptomatic palpitations associated with pre-syncopal symptoms) 
was sinus tachycardia. He was orthostatic by VS criteria in the 
ED, however on day of discharge, orthostatic VS were re-checked 
and were negative. He underwent CTA head/neck which showed only 
a 4mm ACOM aneurysm. He was seen by the neurology service who 
felt he warranted outpatient tilt-table testing and possible 
other w/u for neurogenic syncope vs seizure. He was monitored on 
telemetry for 24 hours with no arrhythmia. Urine osmolality was 
checked to rule out diabetes inspidus given history of lithium 
use, and was pending at discharge. He was instructed not to 
drive for 6 months, or until an etiology/treatment for his 
syncope is determined. He will have both cardiology and 
neurology follow-up through ___.

ACUTE ISSUES:
#Syncope: Ultimately felt to be most likely neurogenic given 
normal TTE and P-MIBI at ___, unremarkable event 
monitor, as well as absence of positional changes associated 
with syncopal episodes. CTA head/neck showed only 4mm ACOM 
aneurysm felt by neurology consult team to be unrelated. He was 
instructed not to drive for at least 6 months or until an 
etiology and treatment is determined for his syncope. Neurology 
f/u was arranged prior to discharge, and patient will follow-up 
with cardiology through ___ as currently scheduled.

TRANSITIONAL ISSUES:
- New Meds: None 
- Stopped/Held Meds: None 
- Changed Meds: None 
- Post-Discharge Follow-up Labs Needed: None 
- Incidental Findings: 4 mm anterior communicating artery 
aneurysm 

()Patient should have neuro f/u for tilt-table testing
()Patient should not drive for at least 6 months, or until an 
etiology and treatment is determined for his syncopal episodes
()Urine studies (osms, na) pending at discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q6H:PRN 
2. Incruse Ellipta (umeclidinium) 62.5 mcg/actuation inhalation 
DAILY 
3. RisperiDONE 1 mg PO BID 
4. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Incruse Ellipta (umeclidinium) 62.5 mcg/actuation inhalation 
DAILY  
2.  Multivitamins 1 TAB PO DAILY  
3.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q6H:PRN  
4.  RisperiDONE 1 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Syncope

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came to the hospital because you had fainted. While you were 
here, you were monitored on a heart monitor which did not show 
any abnormalities. We also called the company for your event 
monitor which did not record any abnormality in the heart. You 
had your head and neck scanned which also did not show any 
abnormality. 

Although we unfortunately did not determine why you have been 
fainting, it is safe for you to leave the hospital to continue 
trying to figure this out as an outpatient. You should avoid 
driving and other potentially dangerous situations until it is 
determined why you have been fainting.

It was a pleasure participating in your care.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___